US06855710B2
b) 4-[3-(p-Tolylsulphonyloxy)-prop-1-ynyl]-nitrobenzene
4.4 ml (54 mmol) of pyridine are added dropwise to a solution of 5.8 g (33 mmol) of 4-(3-hydroxyprop-1-ynyl)-nitrobenzene and 5.2 g (27 mmol) of p-toluenesulphonic acid chloride in 50 ml of dichloromethane at 0° C. After 2 hours at 0° C. about 25 g of ice and 8 ml of conc. hydrochloric acid are added. The organic phase is separated off and washed with water. After removal of the solvent in vacuo and chromatography of the residue on silica gel (dichloromethane/methanol=1:1) the product is obtained as an oil.

reactant | pyridine | 54 mmol, 4.4 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-(3-hydroxyprop-1-ynyl)-nitrobenzene | 33 mmol, 5.8 g | OCC#CC1=CC=C(C=C1)[N+](=O)[O-] | C9H7NO3
reactant | p-toluenesulphonic acid chloride | 27 mmol, 5.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[3-(p-Tolylsulphonyloxy)-prop-1-ynyl]-nitrobenzene | C1(=CC=C(C=C1)S(=O)(=O)OCC#CC1=CC=C(C=C1)[N+](=O)[O-])C | C16H13NO5S
